US04885283
0.1 g of [(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl][(2-phenylmaleimido)methyl]phosphinic acid methyl ester was dissolved in 1 ml of dichloromethane and 2 ml of trifluoroacetic acid were added. The mixture was stirred at room temperature for 2 hours and the solvent was then removed by evaporation. The residue was taken up in 30 ml of acetone/dichloromethane (1:1) and the solution was evaporated to give 95 mg of [(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl][(2-phenylmaleimido)methyl]phosphinic acid in the form of a tan colored foam.

reactant | [(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl][(2-phenylmaleimido)methyl]phosphinic acid methyl ester | 0.1 g | COP(=O)(CN1C(C(=CC1=O)C1=CC=CC=C1)=O)CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O | C26H38N3O6P
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | [(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl][(2-phenylmaleimido)methyl]phosphinic acid | 95 mg | CC(CC(CP(O)(=O)CN1C(C(=CC1=O)C1=CC=CC=C1)=O)C(N[C@@H](CC(C)C)C(NC)=O)=O)C | C25H36N3O6P
